US07557114B2
(a) 5-Cyclopropylmethoxy-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A6(a) from 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A38(b)) and cyclopropylmethanol. Off-white solid. MS (m/e): 234.1 ([M+H-Me2C═CH2]+, 100%)

reactant | 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)I | C13H16INO2
reactant | cyclopropylmethanol | C1(CC1)CO | C4H8O
product | 5-Cyclopropylmethoxy-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)OCC1CC1 | C17H23NO3
